datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.C[NH:10]CCCC(=O)[O-]>>COc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.C[NH+:10](CCCC(=O)[O-])[H:20] 10=20;20,21=21",
"CC(C)(C)[NH2+]CC(=O)c1ccc([O-:10])cc1.CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20]>>CC(C)(C)[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21] 10=20;20,21=21",
"CC(C)[N:10](CCc1ccccc1)CCc1ccccc1.c1c(CN2CCNCC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCCNCC1>>CC(C)[N+:10](CCc1ccccc1)(CCc1ccccc1)[H:20].c1c(CN2CCNCC[NH:21]CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CCN(CC)[N+:21](CC)(CC)[H:20].[O-][n+]1cnc2nc[n-]c2c1[NH-:10]>>CCN(CC)[N:21](CC)CC.[O-][n+]1cnc2nc[n-]c2c1[NH:10][H:20] 10=20;20,21=21",
"C[NH+](C)CCCNc1c([N+](=O)[O-])c[n:10]c2ccccc12.[S-]c1cccc2ccc[n+:21]([H:20])c12>>C[NH+](C)CCCNc1c([N+](=O)[O-])c[n+:10]([H:20])c2ccccc12.[S-]c1cccc2ccc[n:21]c12 10=20;20,21=21",
"O=P([O-])(O)C([NH2+]Cc1ccc[n+:21]([H:20])c1)c1ccccc1O.c1ccc2sc(/N=N/c3ccc([O-:10])c4ncccc34)nc2c1>>O=P([O-])(O)C([NH2+]Cc1ccc[n:21]c1)c1ccccc1O.c1ccc2sc(/N=N/c3ccc([O:10][H:20])c4ncccc34)nc2c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(S)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(S)C[NH2+:10][H:20] 10=20;20,21=21",
"CCCC[NH+](CCCC)CC[S-:10].O=C(NC(Cc1c[nH]c[nH+]1)C(=O)N[NH2+:21][H:20])OCc1ccccc1>>CCCC[NH+](CCCC)CC[S:10][H:20].O=C(NC(Cc1c[nH]c[nH+]1)C(=O)N[NH2:21])OCc1ccccc1 10=20;20,21=21",
"C=C(C)C(O)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(O)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])ccc1N[N+:21](=C(C#N)C#N)[H:20].O=S(=O)(C(F)(F)F)[N-:10]c1ccc(Cl)cc1>>Cc1cc([N+](=O)[O-])ccc1N[N:21]=C(C#N)C#N.O=S(=O)(C(F)(F)F)[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"C[O+:21](c1ccccc1)[H:20].N#CC(C#N)=C(C#N)[N-:10]c1ccc(Br)cc1>>C[O:21]c1ccccc1.N#CC(C#N)=C(C#N)[N:10](c1ccc(Br)cc1)[H:20] 10=20;20,21=21",
"CC(O)c1cccc([O-:10])c1CO.Cc1ccc(Br)c(C(=O)[O:21][H:20])c1>>CC(O)c1cccc([O:10][H:20])c1CO.Cc1ccc(Br)c(C(=O)[O-:21])c1 10=20;20,21=21",
"CCc1cc([O-:10])cc(C)c1Cl.CN(C)CC[N+:21](C)(CCN(C)C)[H:20]>>CCc1cc([O:10][H:20])cc(C)c1Cl.CN(C)CC[N:21](C)CCN(C)C 10=20;20,21=21",
"CC(=O)n1cc[n+:21]([H:20])c1C.O=C(Oc1ccc([N+](=O)[O-])cc1[N+](=O)[O-])c1ccc([O-:10])cc1>>CC(=O)n1cc[n:21]c1C.O=C(Oc1ccc([N+](=O)[O-])cc1[N+](=O)[O-])c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC(c1ccccc1)[N:10]1CC(O[Si](C)(C)C)C1.c1ccc2c(c1)nnn2[O:21][H:20]>>CC(c1ccccc1)[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.c1ccc2c(c1)nnn2[O-:21] 10=20;20,21=21",
"CSc1nccc(C)[n:10]1.Cc1ccc(C(=O)[O:21][H:20])cc1[N+](=O)[O-]>>CSc1nccc(C)[n+:10]1[H:20].Cc1ccc(C(=O)[O-:21])cc1[N+](=O)[O-] 10=20;20,21=21",
"CCCC[S-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCCC[S:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(Nc2ccc([O:21][H:20])cc2)c(C(C)C)cc1O.Nc1c2ccccc2[n:10]c2c(N)cccc12>>Cc1cc(Nc2ccc([O-:21])cc2)c(C(C)C)cc1O.Nc1c2ccccc2[n+:10]([H:20])c2c(N)cccc12 10=20;20,21=21",
"COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.Cc1nc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])sc1C>>COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].Cc1nc([N-:21]S(=O)(=O)c2ccc(N)cc2)sc1C 10=20;20,21=21",
"CNCCC[NH+:21](C)[H:20].Cc1ccc(S(c2ccccc2)=[NH:10])cc1>>CNCCC[NH:21]C.Cc1ccc(S(c2ccccc2)=[NH+:10][H:20])cc1 10=20;20,21=21",
"O=C1C=Cc2cc(O)c([O:21][H:20])cc2O1.O=C1CCCC(=O)N1[O-:10]>>O=C1C=Cc2cc(O)c([O-:21])cc2O1.O=C1CCCC(=O)N1[O:10][H:20] 10=20;20,21=21",
"C=CCN(CC=C)CCC[N+:21](CC=C)(CC=C)[H:20].NC(=O)C(Cc1ccccc1)[NH-:10]>>C=CCN(CC=C)CCC[N:21](CC=C)CC=C.NC(=O)C(Cc1ccccc1)[NH:10][H:20] 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]CCC#N.CC=C1C[N+:21]2([H:20])[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34>>CC(Cc1ccccc1)[NH+:10](CCC#N)[H:20].CC=C1C[N:21]2[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CC(=CCl)C(=O)[O-:10].C[C@@H]1[C@@H](N)[C@H]1[NH2+:21][H:20]>>CC(=CCl)C(=O)[O:10][H:20].C[C@@H]1[C@@H](N)[C@H]1[NH2:21] 10=20;20,21=21",
"CC[N:10](CC)N(C)C.O=C1C=C(c2ccccc2)Oc2cc([O:21][H:20])ccc21>>CC[N+:10](CC)(N(C)C)[H:20].O=C1C=C(c2ccccc2)Oc2cc([O-:21])ccc21 10=20;20,21=21",
"CCCC(C(=O)[O-])[NH2:10].N=C(N)Nc1nc(N)nc(N/C(N)=[NH+:21]/[H:20])n1>>CCCC(C(=O)[O-])[NH2+:10][H:20].N=C(N)Nc1nc(N)nc(NC(N)=[NH:21])n1 10=20;20,21=21",
"CCOCC(=O)[O:21][H:20].OCC[N:10]1CC[NH2+]CC1>>CCOCC(=O)[O-:21].OCC[N+:10]1([H:20])CC[NH2+]CC1 10=20;20,21=21",
"C(=N/[O-:10])\c1ccccn1.CN(C)S(=O)(=O)c1ccc([NH2+:21][H:20])cc1>>C(=N/[O:10][H:20])\c1ccccn1.CN(C)S(=O)(=O)c1ccc([NH2:21])cc1 10=20;20,21=21",
"C1CN(CC[N:10]2CCOCC2)CCO1.CC(=O)Nc1ccc(S(=O)(=O)[N:21](c2nccc(C)n2)[H:20])cc1>>C1CN(CC[N+:10]2([H:20])CCOCC2)CCO1.CC(=O)Nc1ccc(S(=O)(=O)[N-:21]c2nccc(C)n2)cc1 10=20;20,21=21",
